US07534791B2
Sulfuryl chloride (0.88 mL, 11 mmol) is added to methyl 2-[[2-(methoxycarbonyl)phenyl]dithio]benzoate in 75 ml dry 1,2-dichloro-ethane. The reaction mixture is stirred for 1 hour at room temperature to give a 0.29 M solution of 2-(methoxycarbonyl)phenyl sulfenyl chloride.

reactant | Sulfuryl chloride | 11 mmol, 0.88 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methyl 2-[[2-(methoxycarbonyl)phenyl]dithio]benzoate | COC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)OC)C=CC=C1 | C16H14O4S2
solvent | 1,2-dichloro-ethane | 75 ml | ClCCCl | C2H4Cl2
product | 2-(methoxycarbonyl)phenyl sulfenyl chloride | COC(=O)C1=C(C=CC=C1)SCl | C8H7ClO2S
